US04619929
1-[4-(Pyrazol-1-yl)-phenoxy]-3-[4-(4-fluorophenyl)-piperazin-1-yl]-propane
0.66 g (0.0152 mole) of sodium hydride (55% strength in liquid paraffin) is added to 2.1 g (0.0131 mole) of 4-(pyrazol-1-yl)-phenol in 60 ml of absolute dimethylformamide, and the mixture is stirred for 1 hour at room temperature. 3.99 g (0.0131 mole) of 1-(3-chloropropyl)-4-(4-fluorophenyl)-piperazine are added, the reaction mixture is stirred for 3 hours at 90° C., under nitrogen as a protective gas, cooled and poured onto ice water, and the precipitate is filtered off under suction. The crude product is recrystallized from ethanol and a product of melting point 151°-153° C. is obtained (yield: 72%).

reactant | sodium hydride | 0.0152 mole, 0.66 g | [H-].[Na+]
reactant | 4-(pyrazol-1-yl)-phenol | 0.0131 mole, 2.1 g | N1(N=CC=C1)C1=CC=C(C=C1)O | C9H8N2O
reactant | 1-(3-chloropropyl)-4-(4-fluorophenyl)-piperazine | 0.0131 mole, 3.99 g | ClCCCN1CCN(CC1)C1=CC=C(C=C1)F | C13H18ClFN2
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 1-[4-(Pyrazol-1-yl)-phenoxy]-3-[4-(4-fluorophenyl)-piperazin-1-yl]-propane | yield: 72% | N1(N=CC=C1)C1=CC=C(OCCCN2CCN(CC2)C2=CC=C(C=C2)F)C=C1 | C22H25FN4O
